### PR TITLE
[Merged by Bors] - feat(Analysis/SpecialFunctions/ImproperIntegrals): Frullani integral

### PR DESCRIPTION
**Pull request by Deep0Thinking**
- [x] depends on: #34966

---

Add a proof of **Frullani integral**.

Main theorems:
- `Frullani.integral_Ioi`
- `IntegrableOn.tendsto_integral_Ioi`
- `exists_integral_div_eq_mul_log`

Supporting lemmas:
- `Frullani.comp_mul_left_div`
- `Frullani.intervalIntegrable_div`
- `Frullani.exists_integral_div_eq_mul_log`
- `Ioi_diff_Ioc`
- `ContinuousOn.comp_mul_left_div`, `ContinuousOn.comp_mul_right_div`
- `ContinuousOn.comp_mul_left`, `ContinuousOn.comp_mul_right`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 1]
```diff
@@ -283,3 +284,198 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
...
+    ∃ c ∈ uIcc (a * y) (b * y), ∫ x in (a * y)..(b * y), f x / x = f c * log (b / a) := by
+  have hay := mul_pos a_pos y_pos
+  have hby := mul_pos b_pos y_pos
+  have hf' : ContinuousOn f (uIcc (a * y) (b * y)) :=
+    hf.mono (by simp [uIcc, Icc_subset_Ici_iff, hay.le, hby.le])
+  obtain ⟨c, hc, heq⟩ := _root_.exists_integral_div_eq_mul_log hay hby hf'
+  rw [mul_div_mul_right b a (ne_of_gt y_pos)] at heq
+  exact ⟨c, hc, heq⟩
+
+/-- **Frullani integral**.
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: You are assuming in the statement that `f (a * x) - f (b * x)) / x` is integrable, which is not true in general under the other assumptions. Is it true that, without the integrability assumption, the result is still true in the improper sense, i.e., `∫ x in Icc u v, (f (a * x) - f (b * x)) / x` converges to `(f 0 - L) * log (b / a)` as `u` tends to `0` and `v` tends to infinity? If that's the case, it would be worth formulating the more general improper result, and then deducing your statement from this one plus the integrability assumption.

File: Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean [hunk 2]
```diff
@@ -623,6 +623,32 @@ theorem intervalIntegral_tendsto_integral_Ioi (a : ℝ) (hfi : IntegrableOn f (I
 
 end IntegralOfIntervalIntegral
 
+theorem IntegrableOn.tendsto_integral_Ioi {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
+    {a : ℝ} {g : ℝ → E} (hg : IntegrableOn g (Ioi a)) :
+    Tendsto (fun ε : ℝ ↦ ∫ x in Ioi ε, g x) (𝓝[>] a) (𝓝 (∫ x in Ioi a, g x)) := by
```
Comment (CoolRmal) [inline Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean]: You should prove a more general version for this lemma (similar to what I have done over here: #34298).

```
theorem IntegrableOn.tendsto_integral_Ioi {ι E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
    {a : ℝ} {g : ℝ → E} (hg : IntegrableOn g (Ioi a)) {b : ι → ℝ} {l : Filter ι} (hb : Tendsto b l (𝓝[≥] a)):
    Tendsto (fun i ↦ ∫ x in Ioi (b i), g x) l (𝓝 (∫ x in Ioi a, g x)) := by
  sorry
```

The original one then follows by taking `b` to be the identity map on `ℝ`.
You probably also need the assumption that `l` is countably generated.

In fact, given that your PR has a large diff, you can probably create a new PR that only includes this lemma and then make this PR depending on your new PR.

Comment (Deep0Thinking) [reply Mathlib/MeasureTheory/Integral/IntegralEqImproper.lean]: Thank you so much for the suggestion!! I've created a new PR #34966 with the generalized version of that theorem.

**Comment by Deep0Thinking** [comment]
@sgouezel Thank you for the comments! I've proved the limit form of Frullani's integral (`tendsto_intervalIntegral`).

**Review by sgouezel — COMMENTED** [review]
You're wirting this for functions taking values in R. But isn't this true for any function taking values in a (complete) real normed space? The strategy would have to be slightly different as lemmas such as `exists_integral_div_eq_mul_log` would not apply any more (this is specifically a one-dimensional phenomenon) but I guess the result will still be true.

**Comment by Deep0Thinking** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/GroupWithZero.lean [hunk 3]
```diff
@@ -208,6 +208,16 @@ nonrec theorem ContinuousWithinAt.div (hf : ContinuousWithinAt f s a)
 theorem ContinuousOn.div (hf : ContinuousOn f s) (hg : ContinuousOn g s) (h₀ : ∀ x ∈ s, g x ≠ 0) :
     ContinuousOn (f / g) s := fun x hx => (hf x hx).div (hg x hx) (h₀ x hx)
 
+theorem ContinuousOn.comp_mul_left_div {f g : G₀ → G₀} {s t : Set G₀} {c : G₀}
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/GroupWithZero.lean]: This kind of lemma is very very specific, and there would be infinitely many variations around it (why divide and not multiply? Why composing the first function and not the second? and so on). Since the proofs are very short, I'd rather remove the lemma, and inline its proof when you need it.

File: Mathlib/Topology/Algebra/Monoid.lean [hunk 4]
```diff
@@ -109,6 +109,16 @@ alias continuous_mul_left := continuous_const_mul
 @[to_additive existing, deprecated (since := "2026-02-20")]
 alias continuous_mul_right := continuous_mul_const
 
+@[to_additive]
+theorem ContinuousOn.comp_mul_left {f : M → X} {s t : Set M} {c : M} (hf : ContinuousOn f t)
```
Comment (sgouezel) [inline Mathlib/Topology/Algebra/Monoid.lean]: This is a direct particular case of a lemma we already have in the library (ContinuousOn.comp) so not worth stating separately.

File: Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean [hunk 5]
```diff
@@ -81,3 +82,24 @@ theorem exists_eq_const_mul_intervalIntegral_of_nonneg
     rw [ae_restrict_iff' measurableSet_uIoc]
     exact ae_of_all μ hg0
   exact exists_eq_const_mul_intervalIntegral_of_ae_nonneg hf hg hg0_ae
+
+theorem exists_integral_div_eq_mul_log {p q : ℝ} {f : ℝ → ℝ} (hp : 0 < p) (hq : 0 < q)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/IntervalIntegral/MeanValue.lean]: I think you're not using this one any more, so I would just remove it from the PR.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 6]
```diff
@@ -284,3 +283,223 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
   (by ring : π = (π / 2) - (-(π / 2))) ▸ integral_of_hasDerivAt_of_tendsto hasDerivAt_arctan'
     integrable_inv_one_add_sq (tendsto_nhds_of_tendsto_nhdsWithin tendsto_arctan_atBot)
     (tendsto_nhds_of_tendsto_nhdsWithin tendsto_arctan_atTop)
+
+namespace Frullani
+
+open Metric
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E] {f : ℝ → E}
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: Since you only need `[CompleteSpace E]` later on, could you remove it from this line, and introduce it only when needed?

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 7]
```diff
@@ -284,3 +283,223 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
   (by ring : π = (π / 2) - (-(π / 2))) ▸ integral_of_hasDerivAt_of_tendsto hasDerivAt_arctan'
     integrable_inv_one_add_sq (tendsto_nhds_of_tendsto_nhdsWithin tendsto_arctan_atBot)
     (tendsto_nhds_of_tendsto_nhdsWithin tendsto_arctan_atTop)
+
+namespace Frullani
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: Mention the results on the Frullani integral in the file-level docstring?

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 8]
```diff
@@ -284,3 +283,223 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
...
+omit [CompleteSpace E] in
+lemma intervalIntegrable_inv_smul_comp_mul (hf : ContinuousOn f (Ioi 0)) {p q : ℝ} (hp : 0 < p)
+    (hq : 0 < q) (hc : 0 < c) : IntervalIntegrable (fun x ↦ x⁻¹ • f (c * x)) volume p q := by
+  apply ContinuousOn.intervalIntegrable
+  have hsub : uIcc p q ⊆ Ioi 0 := by simp [uIcc, Icc_subset_Ioi_iff, hp, hq]
+  exact (continuousOn_inv₀.mono (fun x hx ↦ ne_of_gt (hsub hx))).smul
+    (hf.comp (continuousOn_const.mul continuousOn_id) fun x hx ↦ mul_pos hc (hsub hx))
+
+omit [CompleteSpace E] in
+lemma integral_comp_mul_inv_smul {ε r : ℝ} (hc : 0 < c) :
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: Is it enough to require c not zero for this one?

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 9]
```diff
@@ -284,3 +283,223 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
...
+  have hsub : uIcc p q ⊆ Ioi 0 := by simp [uIcc, Icc_subset_Ioi_iff, hp, hq]
+  have hint_f : IntervalIntegrable (fun x ↦ x⁻¹ • f x) volume p q :=
+    intervalIntegrable_inv_smul hf hp hq
+  have hint_V : IntervalIntegrable (fun x ↦ x⁻¹ • V) volume p q := by
+    apply ContinuousOn.intervalIntegrable
+    exact (continuousOn_inv₀.mono (fun x hx ↦ ne_of_gt (hsub hx))).smul continuousOn_const
+  have hint_inv : IntervalIntegrable (fun x : ℝ ↦ x⁻¹ * δ) volume p q := by
+    apply ContinuousOn.intervalIntegrable
+    exact (continuousOn_inv₀.mono (fun x hx ↦ ne_of_gt (hsub hx))).mul continuousOn_const
+  calc
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: Could you recall what you are calculating here? I.e., starting a `calc` block with `_` is not very nice to the readers.

**Review by sgouezel — COMMENTED** [review]
It's starting to look great! A design question, though: you're assuming everywhere that your function is continuous on (0,+oo), but as far as I can tell this is only useful to make sure the integrals make sense. Would it be enough to only assume `LocallyIntegrableOn (Ioi 0)`?

**Comment by Deep0Thinking** [comment]
-awaiting-author

**Comment by Deep0Thinking** [comment]
@sgouezel Thank you for the review!! I've addressed all the comments. For the main change: based on your suggestion, I weakened `ContinuousOn f (Ioi 0)` to `LocallyIntegrableOn f (Ioi 0)` throughout Frullani, since continuity was only used for integrability.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 10]
```diff
@@ -289,6 +291,231 @@ theorem integral_univ_inv_one_add_sq : ∫ (x : ℝ), (1 + x ^ 2)⁻¹ = π :=
...
     (tendsto_nhds_of_tendsto_nhdsWithin tendsto_arctan_atTop)
 
+namespace Frullani
+
+open Metric
+
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] {f : ℝ → E}
+         {a b c : ℝ} {L R : E}
+
+lemma intervalIntegrable_inv_smul (hf : LocallyIntegrableOn f (Ioi 0)) {p q : ℝ} (hp : 0 < p)
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]: You have `a` and `b` that are already declared in the `variable` line. Could you use them instead of `p` and `q`, here and below?

**Review by sgouezel — COMMENTED** [review]
This looks great, thanks! Since it's a little bit specialised, could you maybe move it to its own file, instead of having it in the current file?

**Comment by Deep0Thinking** [comment]
-awaiting-author

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 11]
```diff
@@ -0,0 +1,249 @@
...
+    _ = ‖(∫ x in a * t..b * t, x⁻¹ • f x) - log (b * t / (a * t)) • V‖ := by rw [hlog_eq]
+    _ ≤ δ' * |log (b * t / (a * t))| :=
+        norm_integral_inv_smul_sub_le hf haε hbε hδ'.le hbound
+    _ = δ' * C := by rw [hlog_eq]
+    _ < δ := by
+        calc δ' * C
+          _ = δ * (C / (C + 1)) := by ring
+          _ < δ * 1 :=
+            mul_lt_mul_of_pos_left ((div_lt_one (by positivity)).2 (lt_add_one C)) hδ
+          _ = δ := mul_one δ
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]: don't open a new calc block here, just continue the current one.

File: Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean [hunk 12]
```diff
@@ -1,13 +1,12 @@
 /-
 Copyright (c) 2023 David Loeffler. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
-Authors: David Loeffler
+Authors: David Loeffler, Louis (Yiyang) Liu
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/ImproperIntegrals.lean]:
```suggestion
Authors: David Loeffler
```

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 13]
```diff
@@ -0,0 +1,249 @@
...
+            have hx_pos : 0 < x :=
+              lt_of_lt_of_le (lt_min ha hb) (uIoc_subset_uIcc hx).1
+            rw [norm_smul, Real.norm_eq_abs, abs_of_pos (inv_pos.2 hx_pos)]
+            exact mul_le_mul_of_nonneg_left (h x hx) (inv_nonneg.2 hx_pos.le)
+        · exact hint_inv
+    _ = δ * |log (b / a)| := by
+        have heq : (fun x : ℝ ↦ x⁻¹ * δ) = fun x ↦ δ * x⁻¹ := by
+          funext x
+          ring
+        rw [heq, intervalIntegral.integral_const_mul, integral_inv_of_pos ha hb]
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]:
```suggestion
        simp_rw [mul_comm, intervalIntegral.integral_const_mul, integral_inv_of_pos ha hb]
```
`rw` can't rewrite under binders, but `simp_rw` can.

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 14]
```diff
@@ -0,0 +1,249 @@
...
+    (huni : ∀ δ > 0, ∀ᶠ t in F, ∀ x ∈ uIoc (a * t) (b * t), ‖f x - V‖ ≤ δ) :
+    Tendsto (fun t ↦ ∫ x in (a * t)..(b * t), x⁻¹ • f x) F (𝓝 (log (b / a) • V)) := by
+  rw [Metric.tendsto_nhds]
+  intro δ hδ
+  set C := |log (b / a)| with hC_def
+  set δ' := δ / (C + 1)
+  have hδ' : 0 < δ' := div_pos hδ (by positivity)
+  filter_upwards [hpos, huni δ' hδ'] with t ht_pos hbound
+  have haε : 0 < a * t := mul_pos ha ht_pos
+  have hbε : 0 < b * t := mul_pos hb ht_pos
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]:
```suggestion
```
Just drop these, and use `by positivity` where you need them.

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 15]
```diff
@@ -0,0 +1,249 @@
...
+lemma tendsto_integral_inv_smul_of_tendsto_uniform (hf : LocallyIntegrableOn f (Ioi 0)) (ha : 0 < a)
+    (hb : 0 < b) {F : Filter ℝ} (hpos : ∀ᶠ t in F, 0 < t) {V : E}
+    (huni : ∀ δ > 0, ∀ᶠ t in F, ∀ x ∈ uIoc (a * t) (b * t), ‖f x - V‖ ≤ δ) :
+    Tendsto (fun t ↦ ∫ x in (a * t)..(b * t), x⁻¹ • f x) F (𝓝 (log (b / a) • V)) := by
+  rw [Metric.tendsto_nhds]
+  intro δ hδ
+  set C := |log (b / a)| with hC_def
+  set δ' := δ / (C + 1)
+  have hδ' : 0 < δ' := div_pos hδ (by positivity)
+  filter_upwards [hpos, huni δ' hδ'] with t ht_pos hbound
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]:
```suggestion
  filter_upwards [hpos, huni δ' (by positivity)] with t ht_pos hbound
```
For trivial sign inequalitiy, just use `by positivity`.

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 16]
```diff
@@ -0,0 +1,249 @@
...
+  rw [Filter.Eventually, mem_nhdsWithin_iff] at hev
+  obtain ⟨η, hη, hη_sub⟩ := hev
+  set M := max a b with hM_def
+  have hM : 0 < M := lt_max_of_lt_left ha
+  filter_upwards [self_mem_nhdsWithin,
+    nhdsWithin_le_nhds (Iio_mem_nhds (div_pos hη hM))] with t ht_pos ht_bound
+  intro x hx
+  have haε : 0 < a * t := mul_pos ha ht_pos
+  have hbε : 0 < b * t := mul_pos hb ht_pos
+  have hx_pos : 0 < x := lt_of_lt_of_le (lt_min haε hbε) (uIoc_subset_uIcc hx).1
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]:
```suggestion
  have hx_pos : 0 < x := (lt_min (by positivity) (by positivity)).trans_le (uIoc_subset_uIcc hx).1
```

File: Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean [hunk 17]
```diff
@@ -0,0 +1,249 @@
...
+  have hev : ∀ᶠ x in atTop, dist (f x) R < δ :=
+    hR.eventually (ball_mem_nhds R hδ)
+  rw [Filter.eventually_atTop] at hev
+  obtain ⟨N, hN⟩ := hev
+  have hm : 0 < min a b := lt_min ha hb
+  filter_upwards [eventually_atTop.2 ⟨max 1 (N / min a b), fun r hr ↦ hr⟩] with t ht
+  intro x hx
+  have ht_pos : 0 < t := lt_of_lt_of_le one_pos ((le_max_left 1 _).trans ht)
+  have haε : 0 < a * t := mul_pos ha ht_pos
+  have hbε : 0 < b * t := mul_pos hb ht_pos
```
Comment (sgouezel) [inline Mathlib/Analysis/SpecialFunctions/FrullaniIntegral.lean]:
```suggestion
```

**Comment by sgouezel** [comment]
bors r+
Thanks!
